US06596738B1
A mixture of ethyl 1-[(2S,3R)-2-(benzyloxy)-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxylate (103 mg) and iodotrimethylsilane (0.08 ml) in chloroform (4 ml) was stirred at room temperature for 2 hours. The mixture was poured into cold methanol and the whole was evaporated in vacuo. The residue was taken up in ethyl acetate, washed with water, aqueous sodium bisulfite and sodium bicarbonate, successively, and dried. The residue left after evaporation of solvent was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (50:1) to give a gummy oil of ethyl 1-[(2S,3R)-2-hydroxy-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxylate (32 mg).

reactant | ethyl 1-[(2S,3R)-2-(benzyloxy)-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxylate | 103 mg | C(C1=CC=CC=C1)O[C@@H](C)[C@@H](CCC1=C(C(=CC=C1)Cl)Cl)N1N=C(N=C1)C(=O)OCC | C23H25Cl2N3O3
reactant | iodotrimethylsilane | 0.08 ml | I[Si](C)(C)C | C3H9ISi
reactant | methanol | CO | CH4O
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-[(2S,3R)-2-hydroxy-5-(2,3-dichlorophenyl)-3-pentyl]-1,2,4-triazole-3-carboxylate | 32 mg | O[C@@H](C)[C@@H](CCC1=C(C(=CC=C1)Cl)Cl)N1N=C(N=C1)C(=O)OCC | C16H19Cl2N3O3
